US04276304
632 mg of 2-n-butoxyphenylglyoxal hydrate are dissolved in 0.5 ml of dimethylsulfoxide, and a solution of 440 mg of α,α-dimethyl-4-methoxyphenethylamine in 1.5 ml of dimethylsulfoxide is added thereto. The mixture is stirred at 20° C. for one hour, whereby a solution of α-(α,α-dimethyl-4-methoxyphenethylimino)-2-n-butoxyacetophenone in dimethylsulfoxide is obtained.

reactant | 2-n-butoxyphenylglyoxal hydrate | 632 mg | O.C(CCC)OC1=C(C=CC=C1)C(=O)C=O
reactant | α,α-dimethyl-4-methoxyphenethylamine | 440 mg | CC(CC1=CC=C(C=C1)OC)(C)N | C11H17NO
solvent | dimethylsulfoxide | 0.5 ml | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 1.5 ml | CS(=O)C | C2H6OS
product | α-(α,α-dimethyl-4-methoxyphenethylimino)-2-n-butoxyacetophenone | CC(CC1=CC=C(C=C1)OC)(C)N=C(C(=O)C1=CC=CC=C1)OCCCC | C23H29NO3
